US08476430B2
D. 5-Chloro-3-(2-methyl-3-nitrophenyl)-1,2,4-triazin-6-amine
A suspension of 6-amino-3-(2-methyl-3-nitrophenyl)-1,2,4-triazin-5(2H)-one (0.95 g, 3.38 mmol) in thionyl chloride (180 mL, 2466 mmol) was heated at reflux for 4 hr, after which period the mixture became a clear solution. The volatiles were removed under vacuum. The residue was dissolved in ice-cold ethyl acetate (250 mL), washed with water (2×60 mL), saturated NaHCO3 solution (60 mL), and brine (60 mL). The organic solution was dried over anhydrous MgSO4 and concentrated under vacuum to dryness to provide the desired product, 5-chloro-3-(2-methyl-3-nitrophenyl)-1,2,4-triazin-6-amine (0.97 g, 3.47 mmol, 77% yield over two steps), as a yellow solid.

reactant | 6-amino-3-(2-methyl-3-nitrophenyl)-1,2,4-triazin-5(2H)-one | 3.38 mmol, 0.95 g | NC=1C(N=C(NN1)C1=C(C(=CC=C1)[N+](=O)[O-])C)=O | C10H9N5O3
reactant | thionyl chloride | 2466 mmol, 180 mL | S(=O)(Cl)Cl | Cl2OS
product | 5-chloro-3-(2-methyl-3-nitrophenyl)-1,2,4-triazin-6-amine | 3.47 mmol, 0.97 g, 77% yield | ClC=1N=C(N=NC1N)C1=C(C(=CC=C1)[N+](=O)[O-])C | C10H8ClN5O2
